US08114868B2
A mixture of 1-chloro-3-(4-fluorophenyl)-5-methylhex-5-en-3-ol (3.15 g, 13 mmol), (S)-(−)-1-(-bromophenyl)ethyl isocyanate (3.5 g, 16 mmol), and DBU (8 g, 33 mmol) in THF (80 mL) was heated to reflux for 25 h. The mixture was diluted with EtOAc and washed with 1 N aq HCl. The aqueous phase was extracted with EtOAc (3 x). The combined organic phase was dried over Na2SO4. After the solvents were evaporated, the crude product was purified by column to give (R)-3-(S)-1-(4-bromophenyl)-ethyl)-6-(4-fluorophenyl)-6-(2-methylallyl)-1,3-oxazinan-2-one (2.13 g, yield: 38%).

reactant | 1-chloro-3-(4-fluorophenyl)-5-methylhex-5-en-3-ol | 13 mmol, 3.15 g | ClCCC(CC(=C)C)(O)C1=CC=C(C=C1)F | C13H16ClFO
reactant | (S)-(−)-1-(-bromophenyl)ethyl isocyanate | 16 mmol, 3.5 g | BrC1=C(C=CC=C1)[C@H](C)N=C=O | C9H8BrNO
reactant | DBU | 33 mmol, 8 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(4-fluorophenyl)-6-(2-methylallyl)-1,3-oxazinan-2-one | 2.13 g, yield: 38% | FC1=CC=C(C=C1)C1(CCNC(O1)=O)CC(=C)C | C14H16FNO2
